US08791303B2
To a solution of 4-(4-fluoro-benzyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione (30 mg, 0.09 mmol) in dichloromethane (1 ml) and triethylamine (52 μl, 0.37 mmol) is added the pivaloyl chloride (34 μl, 0.37 mmol) at room temperature. The reaction mixture is stirred overnight at room temperature. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 2,2-dimethyl-propionic acid 4-(4-fluoro-benzyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopent-1-enyl ester (31 mg).

reactant | 4-(4-fluoro-benzyl)-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 0.09 mmol, 30 mg | FC1=CC=C(CC2C(C(C(C2)=O)C2=C(C=C(C=C2C)C)C)=O)C=C1 | C21H21FO2
reactant | triethylamine | 0.37 mmol, 52 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.37 mmol, 34 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2,2-dimethyl-propionic acid 4-(4-fluoro-benzyl)-3-oxo-2-(2,4,6-trimethyl-phenyl)-cyclopent-1-enyl ester | 31 mg | FC1=CC=C(CC2C(C(=C(C2)OC(C(C)(C)C)=O)C2=C(C=C(C=C2C)C)C)=O)C=C1 | C26H29FO3
